US04061656
22.2 G. of crude 2,4-diethoxycarbonyl-3-bromomethyl-5-acetylamino-thiophene, 19.7 g. (75 mmol) of triphenylphosphine and 700 ml. of toluene were refluxed for 3 hrs. The resulting precipitate was filtered from the hot solution and washed well with toluene to yield (2,4-diethoxycarbonyl-5-acetylamino-3-thenyl)-triphenyl phosphonium bromide, m.p. 186°-195° C. The NMR-spectrum showed that the material contained 11% of succinimide.

reactant | 2,4-diethoxycarbonyl-3-bromomethyl-5-acetylamino-thiophene | C(C)OC(=O)C=1SC(=C(C1CBr)C(=O)OCC)NC(C)=O | C13H16BrNO5S
reactant | triphenylphosphine | 75 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2,4-diethoxycarbonyl-5-acetylamino-3-thenyl)-triphenyl phosphonium bromide | [Br-].C(C)OC(=O)C1=C(C(=C(S1)NC(C)=O)C(=O)OCC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H30NO5PS.BrH/c1-4-36-30(34)27-26(28(31(35)37-5-2)39-29(27)32-22(3)33)21-38(23-15-9-6-10-16-23,24-17-11-7-12-18-24)25-19-13-8-14-20-25;/h6-20H,4-5,21H2,1-3H3;1H
